US05047411
A mixture of 2-amino-6-[2-(7-methoxyimidazo[1,2-a]pyridin-2-yl)ethyl]benzoxazole (1.0 g) and N-chlorosuccinimide (0.43 g) in dioxane (15 ml) was stirred for 2 hours at ambient temperature. To the reaction mixture was added a mixture of ethyl acetate and water, and the mixture was adjusted to pH 1 with 6N hydrochloric acid. The separated aqueous layer was adjusted to pH 8 with 20% potassium carbonate aqueous solution and the mixture was extracted with a mixture of ethyl acetate and tetrahydrofuran. The extract was washed with brine and dried over magnesium sulfate. Evaporation of the solvent gave a residue, which was purified by silica gel column chromatography eluting with a solution of chloroform and methanol (19:1, V/V). The fractions containing object compound were concentrated to give 2-amino-6-[2-(3-chloro-7-methoxyimidazo[1,2-a]pyridin-2-yl)ethyl]benzoxazole (0.41 g).

reactant | 2-amino-6-[2-(7-methoxyimidazo[1,2-a]pyridin-2-yl)ethyl]benzoxazole | 1.0 g | NC=1OC2=C(N1)C=CC(=C2)CCC=2N=C1N(C=CC(=C1)OC)C2 | C17H16N4O2
reactant | N-chlorosuccinimide | 0.43 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | hydrochloric acid | 6N | Cl | ClH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-amino-6-[2-(3-chloro-7-methoxyimidazo[1,2-a]pyridin-2-yl)ethyl]benzoxazole | 0.41 g | NC=1OC2=C(N1)C=CC(=C2)CCC=2N=C1N(C=CC(=C1)OC)C2Cl | C17H15ClN4O2
